US08431604B2
N-[(2-{[[(2,6-dimethoxybenzyl)amino](imino)methyl]amino}-1,3-thiazole-4-yl)methyl]butane-1-sulfonamide
Reaction of 100 mg (0.33 mmol) N-[4-(aminomethyl)-1,3-thiazole-2-yl]-N′-(2,6-dimethoxybenzyl)guanidine hydrochloride, Example 154 free base, with 60.4 mg butane sulfonic acid chloride in 5 ml THF with addition of 480 mg polymer-bound NMM (1.7 mmol/g; Argonaut) and chromatography of the crude product on silica gel dichloromethane/methanol 0-2%) yielded 46 mg; ESI-MS [M+H+]=442.05.

reactant | N-[4-(aminomethyl)-1,3-thiazole-2-yl]-N′-(2,6-dimethoxybenzyl)guanidine hydrochloride | 0.33 mmol, 100 mg | Cl.NCC=1N=C(SC1)NC(=N)NCC1=C(C=CC=C1OC)OC
reactant | butane sulfonic acid chloride | 60.4 mg | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | NMM | 480 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[(2-{[[(2,6-dimethoxybenzyl)amino](imino)methyl]amino}-1,3-thiazole-4-yl)methyl]butane-1-sulfonamide | COC1=C(CNC(=N)NC=2SC=C(N2)CNS(=O)(=O)CCCC)C(=CC=C1)OC | C18H27N5O4S2
